### PR TITLE
chore: Added the Popit tutorial

### PR DESCRIPTION
**Pull request by MikaelMayer**
<small>By submitting this pull request, I confirm that my contribution is made under the terms of the [MIT license](https://github.com/dafny-lang/dafny/blob/master/LICENSE.txt).</small>

### CODE REVIEW

File: Test/tutorial/Popit.dfy [hunk 1]
```diff
@@ -0,0 +1,963 @@
+// RUN: %dafny /compile:0 /print:"%t.print" /dprint:"%t.dprint" "%s" > "%t"
+// RUN: %diff "%s.expect" "%t"
+
+/// # Pop-it AI solver
+///
+/// This tutorial covers the following Dafny notions:
+/// - Proofs by induction
+/// - Mutually recursive predicates (they are not necessary but illustrate interesting points)
+/// - Proof of a cache that compute one of the mutually recursive predicates.
+/// - Support for arguments in dafny Main functions
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:10]:
```suggestion
/// - Support for arguments in dafny `Main` functions
```

File: Test/tutorial/Popit.dfy [hunk 2]
```diff
@@ -0,0 +1,963 @@
...
+/// - Extract the minimum and maximum of a multiset
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:11]:
```suggestion
/// - Extracting the minimum and maximum of a multiset of integers
```

File: Test/tutorial/Popit.dfy [hunk 3]
```diff
@@ -0,0 +1,963 @@
...
+/// - Invariants for three nested while loops
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:12]:
```suggestion
/// - Invariants for nested while loops
```

File: Test/tutorial/Popit.dfy [hunk 4]
```diff
@@ -0,0 +1,963 @@
+// RUN: %dafny /compile:0 /print:"%t.print" /dprint:"%t.dprint" "%s" > "%t"
+// RUN: %diff "%s.expect" "%t"
+
+/// # Pop-it AI solver
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:4]: Is `Pop-It` a trademark?

Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:4]:
```suggestion
/// # Pop-it solver
```

File: Test/tutorial/Popit.dfy [hunk 5]
```diff
@@ -0,0 +1,963 @@
...
+/// - Mutually recursive predicates (they are not necessary but illustrate interesting points)
+/// - Proof of a cache that compute one of the mutually recursive predicates.
+/// - Support for arguments in dafny Main functions
+/// - Extract the minimum and maximum of a multiset
+/// - Invariants for three nested while loops
+/// - Reasoning about multisets (sum, induction)
+///
+/// What is left to the reader:
+///
+///   Find a simple invariant equivalent to IsWinning, test it with "run" and prove it correct
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:17]:
```suggestion
///   Find a simple invariant equivalent to IsWinning, test it with "run" and prove it correct.
```

File: Test/tutorial/Popit.dfy [hunk 6]
```diff
@@ -0,0 +1,963 @@
...
+/// 
+/// Usage in development:
+/// 
+///    > dafny -compile:4 -noVerify Popit.dfy --args play 3 4 5
+///    Dafny program verifier did not attempt verification
+///    Running...
+///    
+///    multiset{3, 4, 5} is winning
+///    Move to losing state:       
+///    Take a sequence of 3 and remove 2 elements to make it a sequence of 1
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:27]:
```suggestion
///     $ dafny -compile:4 -noVerify Popit.dfy --args play 3 4 5
///     Dafny program verifier did not attempt verification
///     Running...
///     
///     multiset{3, 4, 5} is winning
///     Move to losing state:       
///     Take a sequence of 3 and remove 2 elements to make it a sequence of 1
```

File: Test/tutorial/Popit.dfy [hunk 7]
```diff
@@ -0,0 +1,963 @@
...
+///
+/// Usage in production
+///
+///    > dafny -compile:2 -noVerify Popit.dfy
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:31]: Same here: This should be indented four spaces to be code

Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:31]: Why `-noVerify`?

File: Test/tutorial/Popit.dfy [hunk 8]
```diff
@@ -0,0 +1,963 @@
...
+///    > dotnet Popit.dll play 3 4 5
+///    multiset{3, 4, 5} is winning
+///    Move to losing state:       
+///    Take a sequence of 3 and remove 2 elements to make it a sequence of 1
+///
+///    >  dotnet Popit.dll display 4 4
+///    Games tested:24
+///    multiset{1} is loosing.
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:39]: The correct spelling is `losing`

File: Test/tutorial/Popit.dfy [hunk 9]
```diff
@@ -0,0 +1,963 @@
...
+
+  lemma natToStringThenStringToNatIdem(n: nat)
+    ensures stringToNat(natToString(n)) == n
+  { // Proof is automatic
+  }
+  lemma stringToNatThenNatToStringIdem(s: stringNat)
+    ensures natToString(stringToNat(s)) == s
+  { // Proof is automatic
+  }
+}
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:106]: Can we use the standard library for this?

File: Test/tutorial/Popit.dfy [hunk 10]
```diff
@@ -0,0 +1,963 @@
...
+
+/// Ok, now let's move to the really interesting part
+/// We wrap everything in a module to be able to use the new function syntax
+/// That way, "function" and "predicate" are compilable by default
+/// We also use the new quantifier syntax so that the following expression
+/// does not result in a parser error. Otherwise, it would try to interpret this as a tuple and would fail.
+/// assert (forall x <- popIt | IsMin(popIt, x), y <- popIt | IsMin(popIt, y) :: x == y);
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:113]:
```suggestion
///
///     assert (forall x <- popIt | IsMin(popIt, x), y <- popIt | IsMin(popIt, y) :: x == y);
```

File: Test/tutorial/Popit.dfy [hunk 11]
```diff
@@ -0,0 +1,963 @@
...
+
+module {:options "/functionSyntax:4", "/quantifierSyntax:4"} PopItWorld {
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:115]: I have no idea what the "pop-it" game is, so it might be worth explaining ^^

File: Test/tutorial/Popit.dfy [hunk 12]
```diff
@@ -0,0 +1,963 @@
...
+  import Printer
+
+/// What is a pop-it game really? Rows with bubbles? 
+/// We could encode it in several ways: sequence of sequences of bubbles that are
+/// popped or not
+/// Or we could just store sequence of sequences of unpopped bubbles.
+/// Here we choose the multiset encoding of a PopIt game. This means each
+/// number n in the multiset represents a row with a number of n consecutives bubbles.
+/// So a PopIt game is a multiset of non-negative integers.
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:124]: You write non-negative (`>= 0`) but below you use positive (`> 0`)

File: Test/tutorial/Popit.dfy [hunk 13]
```diff
@@ -0,0 +1,963 @@
...
+
+  ghost predicate IsPopit(x: multiset<int>) {
+    forall row <- x :: row > 0
+  }
+
+/// Now we define a PopIt as a subset type of a multiset<int> as expected:
+/// We decide that the empty multi set is a winning PopIt game,
+/// so we don't need to provide a witness since multiset{} is a valid PopIt game
+
+  type PopIt = x: multiset<int> | IsPopit(x)
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:136]: Why define a predicate on the multiset instead of the elements?

File: Test/tutorial/Popit.dfy [hunk 14]
```diff
@@ -0,0 +1,963 @@
...
+
+/// Ok, let's define one useful predicate. A PopIt is said final if it's no longer possible to play
+
+  predicate IsFinal(x: PopIt) {
+    |x| == 0
+  }
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:142]: It would be nice to make this a member function of a datatype, if it were possible

File: Test/tutorial/Popit.dfy [hunk 15]
```diff
@@ -0,0 +1,963 @@
...
+  ghost function NumberOfElements(popIt: PopIt): (r: int) ensures (r >= 0)
+  {
+    if |popIt| == 0 then 0 else
+    var x := Pick(popIt);
+    x + NumberOfElements(popIt - multiset{x})
+  }
+
+/// Picking an element from a set or multiset is easy in ghost mode.
+/// We just need to ensure the set or multiset is not empty
+/// Indeed, in ghost context, we don't need to prove the uniqueness of the element
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:156]: "We don't need to prove" suggests that it's still true, but it's not

File: Test/tutorial/Popit.dfy [hunk 16]
```diff
@@ -0,0 +1,963 @@
...
+    Split(row: int, index: int, amount: int)
+
+/// Now, we want to have a say on whether the move is valid for a given PopIt
+/// and how to apply it if it is the case.
+/// For that, we define a datatype `PopItMove` that will be handy and contain a PopIt game and a move:
+
+  datatype PopItMove = PopItMove(popIt: PopIt, move: Move) {
+
+/// What does it mean for this move to be valid for the PopIt?
+/// it means that
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:179]:
```suggestion
/// It means that:
```

File: Test/tutorial/Popit.dfy [hunk 17]
```diff
@@ -0,0 +1,963 @@
...
+/// - that the elements we consider do exist in the original PopIt (`row in popIt`)
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:180]:
```suggestion
/// - The elements we consider do exist in the original PopIt (`row in popIt`).
```

File: Test/tutorial/Popit.dfy [hunk 18]
```diff
@@ -0,0 +1,963 @@
...
+/// - that the elements we are removing between index and index+amount are within the range
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:181]:
```suggestion
/// - The elements we are removing between `index` and `index + amount` are within the range.
```

File: Test/tutorial/Popit.dfy [hunk 19]
```diff
@@ -0,0 +1,963 @@
...
+
+    predicate Valid() {
+        match move {
+        case Split(row, index, amount) =>
+            row in popIt && 0 <= index < index + amount <= row
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:186]: Weird indentation here (4 spaces at once)

File: Test/tutorial/Popit.dfy [hunk 20]
```diff
@@ -0,0 +1,963 @@
...
+      requires Valid()
+    {
+      match move {
+      case Split(row, index, amount) =>
+
+/// In every case, Dafny will verify that we return a valid PopIt, e.g. no element is zero.
+/// In the first case, when we remove all the elements of a row, we simply delete it
+
+        if amount == row then
+        popIt - multiset{row}
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:205]: Weird indentation here too (missing spaces)

File: Test/tutorial/Popit.dfy [hunk 21]
```diff
@@ -0,0 +1,963 @@
...
+        else
+        popIt - multiset{row} + multiset{index} + multiset{row-index-amount}
+      }
+    }
+
+/// Now we can prove our termination metric. If a move can be applied to a PopIt,
+/// we show that its number of elements decreases
+/// That way, we can prove that all our recursive functions terminate.
+
+    lemma {:axiom} Decreases()
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:225]: Why `:axiom`?

File: Test/tutorial/Popit.dfy [hunk 22]
```diff
@@ -0,0 +1,963 @@
...
+/// Now that we defined this notion of move validity,
+/// we can define how applying this move results in a new PopIt.
+/// Note that, because we defined a datatype, we don't need to repeat the PopIt and move argument
+/// This makes signatures smaller and more manageable
+
+    function Apply(): PopIt
+      requires Valid()
+    {
+      match move {
+      case Split(row, index, amount) =>
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:199]: Not a fan of unindented cases

File: Test/tutorial/Popit.dfy [hunk 23]
```diff
@@ -0,0 +1,963 @@
...
+
+    lemma {:axiom} Decreases()
+        requires Valid()
+        ensures NumberOfElements(Apply()) < NumberOfElements(popIt)
+    {
+      match move { 
+      case Split(row, index, amount) =>
+        if amount == row {
+
+/// We use a Calc statement to compute how the number of bubbles evolves after application,
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:233]:
```suggestion
/// We use a calc statement to compute how the number of bubbles evolves after application,
```

File: Test/tutorial/Popit.dfy [hunk 24]
```diff
@@ -0,0 +1,963 @@
...
+/// depending on the type of move.
+/// "calc" takes expressions and it will try to prove that each expressions equals the next,
+/// unless another operator like "<" is provided.
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:236]:
```suggestion
/// `calc` takes expressions and it will try to prove that each expressions equals the next,
/// unless another operator like `<` is provided.
```

File: Test/tutorial/Popit.dfy [hunk 25]
```diff
@@ -0,0 +1,963 @@
...
+
+/// A winning popt it game is either final
+
+    || IsFinal(popIt)
+
+/// Or there exists a move that will enter the game into a losing position
+/// Note how we prove termination here by calling the lemma `Decreases`
+
+    || exists 
+      row: int <- popIt, index | 0 <= index < row, amount | 1 <= amount <= row - index ::
```
Comment (cpitclaudel) [inline Test/tutorial/Popit.dfy:377]: Odd indentation here too

**Review by cpitclaudel — CHANGES_REQUESTED** [review]
I started a review and it reads nicely, but I got lost because I don't know the rules of the game.  I will finish the review once the first part is clarified :)
